US09315475B2
Step 4: Preparation of tert-butyl (2R,5R)-5-(hydroxymethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate
To tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate in THF (0.1 M) at rt was added TBAF (1M in THF) (4 eq.). The mixture was stirred at rt for 2 hrs, diluted with EtOAc and saturated aqueous NH4Cl and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by automated SiO2 flash chromatography system using solvent gradient of 0-10% MeOH/CH2Cl2 to afford the desired compound.

reactant | tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC=1C(=NC=CC1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H56N4O7Si
reactant | TBAF | 1M, 4 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4Cl | [NH4+].[Cl-]
product | tert-butyl (2R,5R)-5-(hydroxymethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}pyridin-3-yl)ethyl]morpholine-4-carboxylate | OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC=1C(=NC=CC1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H42N4O7
